US08026236B2
Methanesulphonyl chloride (0.15 ml) was added to a stirred solution of 3-acetylaminobenzylalcohol (260 mg) and TEA (0.26 ml) in DCM (2 ml) at 0° C. The reaction was allowed to warm to room temperature and stirred for two hours. The mixture was diluted with EtOAc (20 mL) and MeOH (1 ml) and stirred for 5 minutes. The mixture was then washed with water (30 ml), organic layer was dried over sodium sulphate and solvent evaporated. The residue was columned on silica gel using DCM then ethyl acetate as eluant to give 3-acetylaminobenzylchloride (210 mg). 1H NMR (CDCl3) δ: 7.59 (s, 1H), 7.41 (d, 1H), 7.31 (t, 1H), 7.14 (d, 1H), 4.56 (s, 2H), 2.18 (s, 3H).

reactant | Methanesulphonyl chloride | 0.15 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-acetylaminobenzylalcohol | 260 mg | C(C)(=O)NC=1C=C(CO)C=CC1 | C9H11NO2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 1 ml | CO | CH4O
product | 3-acetylaminobenzylchloride | 210 mg | C(C)(=O)NC=1C=C(CCl)C=CC1 | C9H10ClNO
